US06586475B1
4-(4-Biphenylylmethoxy)phenyl-N-[2-(N,N-dimethylamino)ethyl]acetamide
A suspension of methyl 4-(4-biphenylylmethoxy)phenylacetate (2.00 g), N,N-dimethylethylenediamine (1.60 g), 2-hydroxypyridine (573 mg) in methanol (4.0 ml) was heated under reflux under nitrogen for 16 hr and cooled until the temperature of the reaction mixture reached to 60±2° C., to which methanol (8.0 ml) was added. The reaction mixture was heated under reflux for additional one hr and cooled to room temperature. The precipitate was collected by filtration and washed with methanol (4.0 ml to obtain the titled compound (2.18 g).

reactant | methyl 4-(4-biphenylylmethoxy)phenylacetate | 2.00 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)OC)C1=CC=CC=C1 | C22H20O3
reactant | N,N-dimethylethylenediamine | 1.60 g | CN(CCN)C | C4H12N2
reactant | 2-hydroxypyridine | 573 mg | OC1=NC=CC=C1 | C5H5NO
solvent | methanol | 4.0 ml | CO | CH4O
solvent | methanol | 8.0 ml | CO | CH4O
product | 4-(4-Biphenylylmethoxy)phenyl-N-[2-(N,N-dimethylamino)ethyl]acetamide | 2.18 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)NCCN(C)C)C1=CC=CC=C1 | C25H28N2O2
